US04265890
To a stirred solution of 42.6 g. (0.206 mole) of 7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine in 1 l. of toluene were added 35.7 ml. of triethylamine (0.256 mole) and 24.5 ml. of ethyl chloroformate (0.256 mole), at room temperature, and the mixture was refluxed for 12 hours. The reaction mixture was filtered to remove triethylamine hydrochloride and the filtrate was concentrated. The solid residue (57 g.) was recrystallized from ethyl acetate to give 3-carboethoxy-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. 91°-93° C.

reactant | 7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.206 mole | COC1=CC2=C(CCNCC2)C=C1OC | C12H17NO2
reactant | triethylamine | 0.256 mole | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.256 mole | ClC(=O)OCC | C3H5ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-carboethoxy-7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | C(=O)(OCC)N1CCC2=C(CC1)C=C(C(=C2)OC)OC | C15H21NO4
